US04156732
3-(4-Chloro-3-sulfamoylbenzoyl)-2,5-dimethylindole
is obtained as described in Example 10 (a) from 10 g 4-chloro-3-sulfamoylbenzoyl chloride and 7.8 g 2,5-dimethylindole in dichloro-ethane in the presence of 12 g aluminum chloride. M.p. 248°-250° C.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 10 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 2,5-dimethylindole | 7.8 g | CC=1NC2=CC=C(C=C2C1)C | C10H11N
reactant | aluminum chloride | 12 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloro-ethane | ClC(C)Cl | C2H4Cl2
product | 3-(4-Chloro-3-sulfamoylbenzoyl)-2,5-dimethylindole | ClC1=C(C=C(C(=O)C2=C(NC3=CC=C(C=C23)C)C)C=C1)S(N)(=O)=O | C17H15ClN2O3S
